US07592334B2
(b) (2,3-Dihydro-[1,4]dioxino[2,3-c]pyridin-7-yl)-methanol
A solution of 5-benzyloxy-2-hydroxymethyl-1H-pyridin-4-one (2 g, 8.7 mmol) in water (220 mL) containing sodium hydroxide (17 mmol) was hydrogenated over 10% palladium on charcoal (1 g) for 4 hours. The mixture was filtered and evaporated to give a white solid. This solid was dissolved in N,N-dimethylformamide (8 mL) then treated with potassium carbonate (2.9 g) and 1,2-dibromoethane (0.6 mL, 7 mmol). The mixture was heated at 85° C. overnight. The cooled mixture was evaporated onto silica and chromatographed eluting with 10-30% methanol in ethyl acetate affording a white solid (250 mg, 21%): MS (APCI+) m/z 168 (MH+).

reactant | 5-benzyloxy-2-hydroxymethyl-1H-pyridin-4-one | 8.7 mmol, 2 g | C(C1=CC=CC=C1)OC=1C(C=C(NC1)CO)=O | C13H13NO3
reactant | sodium hydroxide | 17 mmol | [OH-].[Na+]
reactant | potassium carbonate | 2.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dibromoethane | 7 mmol, 0.6 mL | BrCCBr | C2H4Br2
solvent | water | 220 mL | O | H2O
catalyst | palladium on charcoal | 1 g | [Pd] | Pd
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | (2,3-Dihydro-[1,4]dioxino[2,3-c]pyridin-7-yl)-methanol | O1CCOC=2C=NC(=CC21)CO | C8H9NO3
